US08466181B2
c) 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-isopropylnicotinamide
To a solution of 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (46 mg, 0.126 mmol) and TBTU (45 mg, 0.139 mmol) in DMF (2.0 mL) was added DIPEA (110 μL, 0.631 mmol). Then isopropylamine (12 μL, 0.139 mmol) was added and the mixture was stirred at room temperature under Ar for 2 h. The mixture was then evaporated and purification by chromatography (silica, 50 to 100% ethyl acetate in heptane) afforded the title compound (34 mg, 66%) as a white foam. MS: m/e=406.3 [M+H]+.

reactant | 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.126 mmol, 46 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | TBTU | 0.139 mmol, 45 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.631 mmol, 110 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylamine | 0.139 mmol, 12 μL | C(C)(C)N | C3H9N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)-N-isopropylnicotinamide | 34 mg, 66% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)NC(C)C)C=C1)C | C21H20FN7O
